US07625895B2
rac-3-[cis-2,3-Bis-(4-chloro-phenyl)-5-oxo-2,3-dihydro-6-iodo-5H-imidazo[1,2-a]pyridine-1-sulfonyl]-benzonitrile
The titled compound was prepared according to general method B by reaction of rac-3-[cis-2,3-Bis-(4-chloro-phenyl)-5-oxo-2,3-dihydro-5H-imidazo[1,2-a]pyridine-1-sulfonyl]-benzonitrile with NIS.

reactant | rac-3-[cis-2,3-Bis-(4-chloro-phenyl)-5-oxo-2,3-dihydro-5H-imidazo[1,2-a]pyridine-1-sulfonyl]-benzonitrile | ClC1=CC=C(C=C1)[C@@H]1N(C=2N(C(C=CC2)=O)[C@@H]1C1=CC=C(C=C1)Cl)S(=O)(=O)C=1C=C(C#N)C=CC1 | C26H17Cl2N3O3S
reactant | NIS | C1CC(=O)N(C1=O)I | C4H4INO2
product | rac-3-[cis-2,3-Bis-(4-chloro-phenyl)-5-oxo-2,3-dihydro-6-iodo-5H-imidazo[1,2-a]pyridine-1-sulfonyl]-benzonitrile | ClC1=CC=C(C=C1)[C@@H]1N(C=2N(C(C(=CC2)I)=O)[C@@H]1C1=CC=C(C=C1)Cl)S(=O)(=O)C=1C=C(C#N)C=CC1 | C26H16Cl2IN3O3S
